US06891066B2
A solution of the product of Example 26, Step A, 4-amino-3-fluorophenyl thiocyanate (500 mg, 2.97 mmol), in ethanol (7.5 mL) was added to a solution of sodium sulfide monohydrate (714 mg, 2.97 mmol) in water (1.5 mL) and the mixture heated at 50° C. for 2 hours. Methyl iodide (464 mg, 3.27 mmol) in ethanol (0.5 mL) was added and heating continued for a further 4 hours. The reaction mixture was then diluted with water (15 mL) and extracted with Et2O (4×5 mL). The combined Et2O extracts were washed with water (3×10 mL), saturated NaCl (10 mL), and dried (Na2SO4), followed by removal of the solvent under reduced pressure to afford a pale yellow oil. This material was purified by dry flash column chromatography on silica (5% Et2O/hexanes as eluant) to give 2-fluoro-4-methylthioaniline as a pale yellow oil (407 mg, 87%); 1H NMR (400 MHz, CDCl3) δ 7.01 (dd, J=11.3, 2.1 Hz, 1 H), 6.94 (ddd, J=8.2, 2.1, 0.9 Hz, 1 H), 6.71 (dd, J=9.3, 8.2 Hz, 1 H), 3.67 (br s, 2 H), 2.42 (s, 3 H). Step C: Preparation of 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]-benzoic acid

reactant | 4-amino-3-fluorophenyl thiocyanate | 2.97 mmol, 500 mg | NC1=C(C=C(C=C1)SC#N)F | C7H5FN2S
reactant | sodium sulfide monohydrate | 2.97 mmol, 714 mg | O.[S-2].[Na+].[Na+]
reactant | Methyl iodide | 3.27 mmol, 464 mg | CI | CH3I
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 2-fluoro-4-methylthioaniline | 407 mg, 87% | FC1=C(N)C=CC(=C1)SC | C7H8FNS
